US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)thiazole-4-carboxamide
(S)-ethyl 4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylate (0.28 g, 0.611 mmol) was dissolved in dry THF under nitrogen atmosphere. The solution was cooled to −78° C. with acetone-dry ice-bath. Methylmagnesium bromide, 3 M solution in Et2O (0.408 ml, 1.223 mmol), was added dropwise. The reaction mixture was stirred in RT overnight. Next day the mixture was again cooled to −78° C. and 1.019 ml of methylmagnesium bromide, 3 M solution in Et2O, was added. The mixture was stirred in RT overnight. Saturated ammonium chloride was added and the mixture was diluted with water and DCM. The organic phase was washed with brine and water. The product was purified by Flash-chromatography. Yield 19.08%. 1H-NMR (400 MHz; CDCl3): δ 1.28 (d, 3H), 1.58 (s, 6H), 2.54 (s, 3H), 2.63 (s, 1H), 4.34 (dd, 1H), 4.44 (dd, 1H), 4.60 (m, 1H), 6.43 (d, 1H), 7.52 (m, 3H), 7.83 (d, 1H), 8.00 (s, 1H).

reactant | (S)-ethyl 4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylate | 0.611 mmol, 0.28 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)OCC)C | C21H20ClN5O3S
reactant | Methylmagnesium bromide | C[Mg]Br
reactant | methylmagnesium bromide | 1.019 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Et2O | 1.223 mmol, 0.408 ml | CCOCC | C4H10O
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)thiazole-4-carboxamide | Yield 19.08% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)(C)O)C | C21H22ClN5O2S
